US04866075
N-[1-(2-[indol-3-yl]ethyl)piperid-4-yl]-quinoline-4-carboxamide
A suspension of quinoline-4-carboxylic acid (0.87g, 5.03 mmol) and triethylamine (0.6g, 5.94 mmol) in dry THF (10 cm3) was stirred at -20° C. while a solution of isobutylchloroformate (0.65g, 5.01 mmol) was added dropwise. The mixture was allowed to warm to room temperature over 31/2 hours then was cooled to -20° C. again and a solution of 3-[2-(4-amino-1-piperidyl)ethyl]indole (1.2g, 4.94 mmol) in dry THF (20 cm3) was added dropwise. The mixture was stirred at room temperature overnight then the solvent was evaporated and the residue triturated with water and aqueous potassium carbonate to give 1.39g of crude title compound.

reactant | quinoline-4-carboxylic acid | 5.03 mmol, 0.87g | N1=CC=C(C2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | triethylamine | 5.94 mmol, 0.6g | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 5.01 mmol, 0.65g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 3-[2-(4-amino-1-piperidyl)ethyl]indole | 4.94 mmol, 1.2g | NC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C15H21N3
solvent | THF | 10 cm3 | C1CCOC1 | C4H8O
solvent | THF | 20 cm3 | C1CCOC1 | C4H8O
product | N-[1-(2-[indol-3-yl]ethyl)piperid-4-yl]-quinoline-4-carboxamide | 1.39g | N1C=C(C2=CC=CC=C12)CCN1CCC(CC1)NC(=O)C1=CC=NC2=CC=CC=C12 | C25H26N4O
